US08378108B2
A mixture of 4-chloropicolinic acid isopropyl ester (1.5 g, 7.5 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[3,2-b]pyridine (1.83 g, 7.5 mmol), dppf(Pd)Cl2 (270 mg, 5 mol %), and potassium carbonate (2.0 g, 15 mmol) in degassed toluene (8 mL), degassed water (4 mL) and degassed isopropanol (4 mL) was heated at 65° C. for 2 hours. The aqueous phase was discarded and the solvent removed under reduced pressure. The residue was purified by flash chromatography (rf: 0.41 in 20:1 ethyl acetate:methanol) to provide isopropyl 4-(1H-pyrrolo[3,2-b]pyridin-6-yl)picolinate (1.20 g, 57%) as a yellow powder. 282.1 (M+1).

reactant | 4-chloropicolinic acid isopropyl ester | 7.5 mmol, 1.5 g | C(C)(C)OC(C1=NC=CC(=C1)Cl)=O | C9H10ClNO2
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[3,2-b]pyridine | 7.5 mmol, 1.83 g | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)C=CN2)C | C13H17BN2O2
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | isopropyl 4-(1H-pyrrolo[3,2-b]pyridin-6-yl)picolinate | 1.20 g, 57% | N1C=CC2=NC=C(C=C21)C2=CC(=NC=C2)C(=O)OC(C)C | C16H15N3O2
